US07531487B2
Octyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate
Methyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate (256 g, 0.88 mole) and isooctanol (133 g, 0.91 mole) are added to a laboratory reactor equipped with the necessary auxiliary equipment. The mixture is heated to 85 C under a vacuum of 30 mmHg. After fifteen minutes, the vacuum is released and aluminum isopropoxide (1.77 g, 0.0087 mole, Rhone-Poulenc, Manalox 130) is added. The reaction mass is heated to 130 C while under a vacuum of 75 mmHg. After two hours, the reaction mass is heated to 165 C while under a vacuum of 30 mmHg for one hour. The excess isooctanol is removed by vacuum distillation at 165 C. The title compound (331 g, 97% yield) is obtained as a light yellow oil whose assay is 97% as judged by calibrated gas chromatography.

reactant | Methyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate | 0.88 mole, 256 g | C(C)(C)(C)C=1C=C(CCC(=O)OC)C=C(C1O)C(C)(C)C | C18H28O3
reactant | isooctanol | 0.91 mole, 133 g | C(CCCCC(C)C)O | C8H18O
catalyst | aluminum isopropoxide | 0.0087 mole, 1.77 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
product | Octyl 3,5-di-tert-butyl-4-hydroxyhydrocinnamate | 331 g, 97% yield | C(C)(C)(C)C=1C=C(CCC(=O)OCCCCCCCC)C=C(C1O)C(C)(C)C | C25H42O3
